US07777047B2
(2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid
A mixture of ethyl (2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (300 mg), tetrahydrofuran (5 mL), ethanol (5 mL) and 2N aqueous sodium hydroxide solution (4 mL) was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate (100 mL) and 1N hydrochloric acid (50 mL). The organic layer was dried over sodium sulfate, and filtrated, and the filtrate was concentrated. The obtained solid was washed with ethyl acetate to give the title compound (278 mg, yield 98%) as a white solid. melting point 121-123° C.

reactant | ethyl (2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 300 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C=1SC=CN1 | C19H20N4O4S3
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 4 mL | [OH-].[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N, 50 mL | Cl | ClH
product | (2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 278 mg, yield 98% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CN1 | C17H16N4O4S3
